US06265421B1
a) 5,7-Dimethoxy-4-methyl-3-(2-phenylethyl)-2(1H)-quinolinone
Ethyl 2-(2-phenylethyl)acetoacetate (2.70 g) in xylene (5 ml) was treated with 3,5-dimethoxyaniline (1.60 g) at 150° C. as described in example 19a. Methanesulfonic acid (4.0 ml) was added at room temperature and the mixture heated at 80° C. for 1 hour. The product was isolated as described in example 19a. Yield 1.38 g (41%).

reactant | Ethyl 2-(2-phenylethyl)acetoacetate | 2.70 g | C1(=CC=CC=C1)CCC(C(=O)OCC)C(=O)C | C14H18O3
reactant | 3,5-dimethoxyaniline | 1.60 g | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | Methanesulfonic acid | 4.0 ml | CS(=O)(=O)O | CH4O3S
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5,7-Dimethoxy-4-methyl-3-(2-phenylethyl)-2(1H)-quinolinone | COC1=C2C(=C(C(NC2=CC(=C1)OC)=O)CCC1=CC=CC=C1)C | C20H21NO3
